### PR TITLE
[Merged by Bors] - feat: the trace of a direct sum is the sum of the traces

### PR DESCRIPTION
**Pull request by ocfnash**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/Trace.lean [hunk 1]
```diff
@@ -4,6 +4,7 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Johannes Hölzl, Patrick Massot, Casper Putz, Anne Baanen
 -/
 import Mathlib.Data.Matrix.Basic
+import Mathlib.Data.Matrix.Block
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Trace.lean:7]: I note that the only file imported by `Mathlib.Data.Matrix.Block` is `Mathlib.Data.Matrix.Basic` so there is no transitive impact of adding this import here.

File: Mathlib/LinearAlgebra/Matrix/Trace.lean [hunk 2]
```diff
@@ -120,6 +121,11 @@ theorem _root_.AddMonoidHom.map_trace [AddCommMonoid S] (f : R →+ S) (A : Matr
     f (trace A)  = trace (f.mapMatrix A) :=
   map_sum f (fun i => diag A i) Finset.univ
 
+lemma trace_blockDiagonal' [DecidableEq p] {m : p → Type*} [∀ i, Fintype (m i)]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Trace.lean:124]: Can you add the unprimed version too?

File: Mathlib/Algebra/DirectSum/LinearMap.lean [hunk 3]
```diff
@@ -0,0 +1,63 @@
...
+    trace R M f = ∑ i in hN.toFinset, trace R (N i) (f.restrict (hf i)) := by
+  set s : Finset ι := hN.toFinset
+  have h_ind : CompleteLattice.Independent (fun i : s ↦ N i) :=
+    h.submodule_independent.comp Subtype.val_injective
+  have h_sup : ⨆ i, N i = ⊤ := h.submodule_iSup_eq_top
+  replace h_sup : ⨆ (i : s), N i = ⊤ := by
+    suffices ⨆ i, ⨆ (_ : N i = ⊥), N i = ⊥ by
+      rw [iSup_split _ (fun i ↦ N i = ⊥), this, bot_sup_eq] at h_sup; simpa [iSup_subtype]
+    simp [iSup_eq_bot]
+  replace h := DirectSum.isInternal_submodule_of_independent_of_iSup_eq_top h_ind h_sup
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/LinearMap.lean:60]: I think these results hold for additive monoids if you use the API for `DirectSum.internal` directly rather than going via independence; though I haven't tried.

File: Mathlib/Algebra/DirectSum/LinearMap.lean [hunk 4]
```diff
@@ -0,0 +1,63 @@
...
+open Set BigOperators DirectSum
+
+variable {ι R M : Type*} [CommRing R] [AddCommGroup M] [Module R M]
+  {N : ι → Submodule R M} [DecidableEq ι] (h : IsInternal N)
+
+namespace LinearMap
+
+/-- If a linear map `f : M → M₂` respects direct sum decompositions of `M` and `M₂`, then it has a
+block diagonal matrix with respect to bases compatible with the direct sum decompositions. -/
+lemma toMatrix_directSum_collectedBasis_eq_blockDiagonal' [Fintype ι]
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/LinearMap.lean:26]: This lemma works for `AddCommMonoid` and `CommSemiring`

File: Mathlib/Algebra/DirectSum/LinearMap.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Algebra/DirectSum/LinearMap.lean:60]: I'm thinking along the lines of:
```
lemma trace_eq_sum_trace_restrict' (hN : {i | N i ≠ ⊥}.Finite)
    {f : M →ₗ[R] M} (hf : ∀ i, MapsTo f (N i) (N i)) :
    trace R M f = ∑ i in hN.toFinset, trace R (N i) (f.restrict (hf i)) := by
  set s : Finset ι := hN.toFinset
  -- TODO: this should be `internal.chooseDecomposition`
  let d' : DirectSum.Decomposition N := {
    decompose' := (Equiv.ofBijective _ h).symm
    left_inv := (Equiv.ofBijective _ h).right_inv
    right_inv := (Equiv.ofBijective _ h).left_inv
  }
  let h : DirectSum.Decomposition (fun i : s => N i) := {
    decompose' := (DirectSum.toModule R _ _ fun i =>
      if hi : i ∈ s then DirectSum.lof R s (N ·) ⟨i, hi⟩ else 0) ∘ₗ (decomposeLinearEquiv N).toLinearMap
    left_inv := sorry
    right_inv := sorry
  }
  ```
  where an extra constructor for `DirectSum.decomposition` would make those sorries trivial

Comment (eric-wieser) [reply Mathlib/Algebra/DirectSum/LinearMap.lean:60]: That might still be a dead end, but the extra constructors are in #8374

File: Mathlib/Algebra/DirectSum/LinearMap.lean [hunk 5]
```diff
@@ -0,0 +1,63 @@
...
+-/
+
+open Set BigOperators DirectSum
+
+variable {ι R M : Type*} [CommRing R] [AddCommGroup M] [Module R M]
+  {N : ι → Submodule R M} [DecidableEq ι] (h : IsInternal N)
+
+namespace LinearMap
+
+/-- If a linear map `f : M → M₂` respects direct sum decompositions of `M` and `M₂`, then it has a
```
Comment (jcommelin) [inline Mathlib/Algebra/DirectSum/LinearMap.lean:24]: Silly nitpick, but I'd prefer if this was `f : M_1 \to M_2`.

File: Mathlib/Algebra/DirectSum/LinearMap.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/Algebra/DirectSum/LinearMap.lean:61]: Hmm, I'm not sure how hard to fight for this approach. On the one hand it does seem like key results such as:
```lean
   (⨁ (i : { i // N i ≠ ⊥ }), N i) ≃+ ⨁ i, N i
```
should exists somewhere, but on the other, I begin to think the best use of effort would be to generalise the `DirectSum` API so that everything is set up relative to a subset `s : Set ι`.

I need to finish a non-Mathlib piece of work this morning so I'll think about this later today if you feel it's worth pushing for.

Comment (eric-wieser) [reply Mathlib/Algebra/DirectSum/LinearMap.lean:61]: here's a very messy proof:
```lean
lemma trace_eq_sum_trace_restrict' (hN : {i | N i ≠ ⊥}.Finite)
    {f : M →ₗ[R] M} (hf : ∀ i, MapsTo f (N i) (N i)) :
    trace R M f = ∑ i in hN.toFinset, trace R (N i) (f.restrict (hf i)) := by
  set s : Finset ι := hN.toFinset
  -- TODO: this should be `internal.chooseDecomposition`
  let d' : DirectSum.Decomposition N := h.chooseDecomposition
  let h' : DirectSum.Decomposition (fun i : s => N i) :=
    .ofLinearMap _
      ((DirectSum.toModule R _ _ fun i =>
        if hi : i ∈ s then DirectSum.lof R s (N ·) ⟨i, hi⟩ else 0) ∘ₗ (decomposeLinearEquiv N).toLinearMap)
      (DirectSum.decompose_lhom_ext N fun i => by
        ext x
        dsimp
        simp [←lof_eq_of R]
        split_ifs with h
        · simp [lof_eq_of]
        · suffices x = 0 by simp [this]
          obtain ⟨x, hx⟩ := x
          simp at h
          simpa [h] using hx)
      (by
        ext i x
        -- stupid lof vs of
        simp; simp [lof_eq_of]; simp [←lof_eq_of R]
        split_ifs with h
        · rfl
        · suffices x = 0 by simp [this]
          obtain ⟨x, hx⟩ := x
          simp at h
          simpa [h] using hx)
  rw [← Finset.sum_coe_sort, trace_eq_sum_trace_restrict h'.isInternal (fun i ↦ hf i)]
```

Comment (ocfnash) [reply Mathlib/Algebra/DirectSum/LinearMap.lean]: I couldn't quite motivate myself to follow this suggestion but as a compromise I did split out the lemma `DirectSum.isInternal_ne_bot_iff` which I hope makes what I'm proposing more palatable.

File: Mathlib/Data/Set/Finite.lean [hunk 6]
```diff
@@ -167,28 +167,38 @@ protected theorem infinite_or_finite (s : Set α) : s.Infinite ∨ s.Finite :=
...
 /-- Note that this is an equality of types not holding definitionally. Use wisely. -/
-theorem coeSort_toFinset (h : s.Finite) : ↥h.toFinset = ↥s := by
-  rw [← Finset.coe_sort_coe _, h.coe_toFinset]
+theorem coeSort_toFinset : ↥hs.toFinset = ↥s := by
+  rw [← Finset.coe_sort_coe _, hs.coe_toFinset]
 #align set.finite.coe_sort_to_finset Set.Finite.coeSort_toFinset
 
+/-- The identity map, bundled as an equivalence between the subtypes of `s : Set α` and of
+`h.toFinset : Finset α`, where `h` is a proof of finiteness of `s`. -/
+@[simps] def subtype_equiv_subtype_toFinset : {x // x ∈ s} ≃ {x // x ∈ hs.toFinset} :=
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Finite.lean:194]: I think this is `equivSubtype` or some other permutation of those words

File: Mathlib/Algebra/DirectSum/LinearMap.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Algebra/DirectSum/LinearMap.lean]: The lemma split is certainly a good idea, thanks! I think probably the best approach overall is:

* Build the `(⨁ (i : { i // N i ≠ ⊥ }), N i) ≃+ ⨁ i, N i` map you describe; I think we probably do have this somewhere
* Define `DirectSum.Decomposition.congrAddEquiv` which takes that equiv and produces `Decomposition N ≃ Decomposition fun i : {i // N i ≠ ⊥ } => N i`
* Define `IsInternal_iff_of_decomposition_equiv`,that turns that result into an `Iff`

The payoff is that `DirectSum.isInternal_ne_bot_iff` becomes true for `AddCommMonoid` (even if that's not helpful for `trace`.

Comment (ocfnash) [reply Mathlib/Algebra/DirectSum/LinearMap.lean]: I essentially agree with you though I am reluctant to take this detour right now.

I will need this lemma but I have excised it from this pull request in the hopes of unblocking the other changes I am proposing.

File: Mathlib/Data/Set/Finite.lean (hunk 6 above)
Comment (ocfnash) [reply Mathlib/Data/Set/Finite.lean]: Ah yes we have `Equiv.subtypeEquiv` but I think not its specialisation to this situation.

I have persuaded myself that this specialisation is worth having so (after fixing the name) and golfing to use `Equiv.subtypeEquiv` I have retained the proposal to introduce this definition.

As motivation, I located a place in the library in `Analysis.InnerProductSpace.PiL2` where it is useful.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
